US08168651B2
4-oxo-4,5-dihydrothieno[2,3-c]quinoline-7-carbonitrile (1.0 eq, 1.22 g, 5.40 mmol) was stirred under reflux in acetonitrile (12 ml) and phosphorus oxychloride (5.0 eq, 2.5 ml, 26.8 mmol) for 6 hours. The volatiles were removed in vacuo, water and ice were added. The resulting solid was filtered, washed with water and dried to afford 4-chlorothieno[2,3-c]quinoline-7-carbonitrile as a light brown solid (1.18 g, 90% yield). LCMS (ES)>95% pure, m/z 245 [M+1]+.

reactant | 4-oxo-4,5-dihydrothieno[2,3-c]quinoline-7-carbonitrile | 5.40 mmol, 1.22 g, 1.0 eq | O=C1NC=2C=C(C=CC2C2=C1SC=C2)C#N | C12H6N2OS
reactant | phosphorus oxychloride | 26.8 mmol, 2.5 ml, 5.0 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 4-chlorothieno[2,3-c]quinoline-7-carbonitrile | 1.18 g, 90% yield | ClC1=NC=2C=C(C=CC2C2=C1SC=C2)C#N | C12H5ClN2S
